US04973767
Crotyl chloride (154.7 g, 1.71 mol) in dry tetrahydrofuran (530 ml) was added to magnesium turnings (46.0 g, 1.89 mol) in dry tetrahydrofuran (130 ml) at such a rate so as to maintain steady reflux. After addition was complete the mixture was heated under reflux for a further hour and then cooled to 0° C. 4-Chlorobenzaldehyde (120.0 g, 0.854 mol) in dry tetrahydrofuran (780 ml) was added over a period of 2 hours. After a further hour the solution was decanted from the excess magnesium into saturated aqueous ammonium chloride solution and the magnesium washed with ether. 2M Hydrochloric acid was added to dissolve the precipitate and the mixture extracted with ether. The combined extracts were washed with water, dried and evaporated in vacuo. Partial purification was achieved by chromatography [SiO2, hexane-ethyl acetate mixtures] to give 3-methyl-4-(4-chlorophenyl)-but-1-en-4-ol (118.45 g, approximately 90% pure, approximately 64%).

reactant | Crotyl chloride | 1.71 mol, 154.7 g | C(C=CC)Cl | C4H7Cl
reactant | magnesium | 1.89 mol, 46.0 g | [Mg] | Mg
reactant | 4-Chlorobenzaldehyde | 0.854 mol, 120.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | tetrahydrofuran | 530 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 780 ml | O1CCCC1 | C4H8O
product | 3-methyl-4-(4-chlorophenyl)-but-1-en-4-ol | 118.45 g | CC(C=C)C(O)C1=CC=C(C=C1)Cl | C11H13ClO
